US08426411B2
A solution of 2,5-dimethoxytetrahydrofuran (0.14 g, 1.1 mmol) in water (3 mL) was heated at about 100° C. for about 1.5 h. The solution was cooled to ambient temperature. A suspension of (1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclo-pentanamine hydro-chloride (0.10 g, 0.21 mmol, prepared using E from Preparation #B.1 and HCl) and NaOAc (0.05 g, 0.61 mmol) in DCM (5 mL) was added to the aqueous solution. The reaction mixture was stirred at ambient temperature for about 1 h followed by addition of additional 2,5-dimethoxytetrahydrofuran (0.14 g, 1.1 mmol). The reaction mixture was heated to about 40° C. for about 15 h. Additional 2,5-dimethoxytetrahydrofuran (0.14 g, 1.1 mmol) was added and the reaction mixture was stirred at about 40° C. for about 8 h then at about 35° C. for about 48 h. The reaction was diluted with DCM (10 mL) and water (10 mL). The layers were separated and the organic layer was washed with water (2×10 mL) and brine (10 mL), dried over anhydrous MgSO4, filtered, and the solvent was removed under reduced pressure to give 1-((1R,3S)-3-(1H-pyrrol-1-yl)cyclopentyl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.095 g, 99%) as a yellow residue: LC/MS (Table 1, Method a) Rt=2.42 min; MS m/z: 447 (M+H)+.

reactant | 2,5-dimethoxytetrahydrofuran | 1.1 mmol, 0.14 g | COC1OC(CC1)OC | C6H12O3
reactant | (1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclo-pentanamine hydro-chloride | 0.21 mmol, 0.10 g | Cl.S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)[C@H]1C[C@H](CC1)N
reactant | NaOAc | 0.61 mmol, 0.05 g | CC(=O)[O-].[Na+]
reactant | 2,5-dimethoxytetrahydrofuran | 1.1 mmol, 0.14 g | COC1OC(CC1)OC | C6H12O3
reactant | 2,5-dimethoxytetrahydrofuran | 1.1 mmol, 0.14 g | COC1OC(CC1)OC | C6H12O3
solvent | water | 3 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 1-((1R,3S)-3-(1H-pyrrol-1-yl)cyclopentyl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.095 g, 99% | N1(C=CC=C1)[C@@H]1C[C@@H](CC1)C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C23H22N6O2S
